US08008301B2
(2,6-Difluoro-4-pyri din-4-yl-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Example 14 via Procedure F′ from (4-bromo-2,6-difluoro-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone and pyridine-4-boronic acid. MS (FIA) 372 (MH+)

reactant | (4-bromo-2,6-difluoro-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | BrC1=CC(=C(C(=C1)F)C(=O)N1[C@@H](CCC1)CN1CCCC1)F | C16H19BrF2N2O
reactant | pyridine-4-boronic acid | N1=CC=C(C=C1)B(O)O | C5H6BNO2
product | (2,6-Difluoro-4-pyri din-4-yl-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | FC1=C(C(=CC(=C1)C1=CC=NC=C1)F)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C21H23F2N3O
